US04735885
Synthesis of 1,18-dicyclohexyl-1,3,16,18-tetraaza-2,17-octadecanedione
30.04 gm (0.240 mole) of cyclohexyl isocyanate was dissolved in 400 mL of 1:1 THF/toluene in a 1000 mL round bottom, 3-neck flask equipped with a thermometer, magnetic stirrer, pressure equalizing dropping funnel, nitrogen purge and heating mantle. The solution in the flask was heated to 40° C. 24.04 gm (0.240 mole) of 1,12-dodecanediamine was dissolved in 400 mL of 1:1 THF/toluene and slowly dropped into the stirred, heated solution of isocyanate. After addition of the diamine, an additional 100 mL of toluene was added to the flask. The temperature was raised to 80° C. and the reaction mixture was refluxed for 12 hours.

reactant | cyclohexyl isocyanate | 0.240 mole, 30.04 gm | C1(CCCCC1)N=C=O | C7H11NO
reactant | 1,12-dodecanediamine | 0.240 mole, 24.04 gm | C(CCCCCCCCCCCN)N | C12H28N2
reactant | isocyanate | [N-]=C=O
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF toluene | 400 mL | C1CCOC1.C1(=CC=CC=C1)C
solvent | THF toluene | 400 mL | C1CCOC1.C1(=CC=CC=C1)C
product | 1,18-dicyclohexyl-1,3,16,18-tetraaza-2,17-octadecanedione | C1(CCCCC1)NC(NCCCCCCCCCCCCNC(NC1CCCCC1)=O)=O | C26H50N4O2
